US05049669
A mixture of 10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarbonitrile (8.44 g) and triethylamine (3.5 cc) in anhydrous pyridine (60 cc) is saturated by bubblin9 in hydrogen sulphide for 5 hours at 25° C. The clear solution obtained is kept stirred for 12 hours at 25° C., and the mixture is then outgassed by bubbling through nitrogen for 90 minutes. The reaction mixture i diluted with ethyl acetate (500 cc) and washed with distilled water (8×200 cc). The organic phase is dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa). The residue is purified by chromatography on a column of basic alumina (0.05-0.16 mm) (height: 31 cm; diameter: 2.6 cm), eluting with mixtures of cyclohexane and ethyl acetate in proportions (by volume) of 80:20 (5 liters) and 50:50 (5 liters) and collecting 100-cc fractions. Fractions 4 to 90 are combined and concentrated under reduced pressure (30 mm Hg; 4 kPa) to give 10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarbothioamide (8.54 g) in the form of an orange-yellow product of honey-like consistency.

reactant | 10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarbonitrile | 8.44 g | C(C)N(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N)CC | C20H23N3S
reactant | triethylamine | 3.5 cc | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulphide | S | H2S
solvent | pyridine | 60 cc | N1=CC=CC=C1 | C5H5N
product | 10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarbothioamide | 8.54 g | C(C)N(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S)CC | C20H25N3S2
